* File: NOR2D2.cdl.pex
* Created: Mon Dec 22 21:16:41 2025
* Program "Calibre xRC"
* Version "v2023.1_18.8"
* Nominal Temperature: 25C
* Circuit Temperature: 25C
* 
.subckt PM_NOR2D2%VSS 1 4 27 28 31 38 39 40
r6 42 47 0.316286
r7 35 47 1
r8 33 47 1
r9 33 35 0.15269
r10 30 47 1
r11 30 33 0.15269
r12 30 31 0.251086
r13 28 31 0.624484
r14 27 28 0.62445
r15 27 38 0.62445
r16 18 39 9.98407
r17 13 14 6.84003
r18 11 42 1
r19 9 42 1
r20 9 11 2.6107
r21 7 42 1
r22 7 9 2.6107
r23 7 18 3.26338
r24 4 40 12.3057
r25 4 14 6.84003
r26 1 13 6.84003
r27 1 11 5.5869
.ends

.subckt PM_NOR2D2%net11 4 5 10 11 16 17 22 23 35 48 55 56 57 58 59 60
r68 71 73 0.2952
r69 69 71 0.2952
r70 67 69 0.738
r71 65 67 0.2952
r72 62 65 0.2952
r73 53 73 1
r74 48 55 1.05025
r75 47 48 1.05022
r76 44 47 1.05022
r77 43 53 0.156299
r78 42 44 0.252919
r79 42 43 2.03688
r80 41 71 1
r81 38 69 1
r82 38 41 0.2952
r83 36 53 0.104199
r84 36 41 0.2214
r85 35 67 1
r86 33 65 1
r87 33 35 2.78344
r88 31 62 1
r89 31 33 2.78344
r90 29 31 5.56688
r91 28 29 11.1338
r92 28 56 2.08758
r93 25 56 9.04618
r94 23 60 20.306
r95 22 23 20.3052
r96 19 35 8.06959
r97 19 22 20.3052
r98 17 59 20.306
r99 16 17 20.3052
r100 13 29 8.06959
r101 13 16 20.3052
r102 11 58 20.306
r103 10 11 20.3052
r104 7 28 8.06959
r105 7 10 20.3052
r106 5 57 20.306
r107 4 5 20.3052
r108 1 25 8.06959
r109 1 4 20.3052
.ends

.subckt PM_NOR2D2%net10 1 6 10 11 15 20 24 25 29 34 38 39 43 48 52 53 57 62 66
+ 67 74 75 76 77 78 79 80 81 82 83
r102 67 83 20.306
r103 66 67 20.3052
r104 63 73 6.97267
r105 63 66 20.3052
r106 61 62 20.3052
r107 61 82 20.3052
r108 57 73 6.97267
r109 57 62 20.306
r110 56 72 4.89506
r111 55 73 0.353334
r112 55 56 16.3169
r113 53 81 20.306
r114 52 53 20.3052
r115 49 72 8.70233
r116 49 52 20.3052
r117 47 48 20.3052
r118 47 80 20.3052
r119 43 72 8.70233
r120 43 48 20.306
r121 42 71 4.89506
r122 41 72 4.89506
r123 41 42 16.3169
r124 39 79 20.306
r125 38 39 20.3052
r126 35 71 8.70233
r127 35 38 20.3052
r128 33 34 20.3052
r129 33 78 20.3052
r130 29 71 8.70233
r131 29 34 20.306
r132 28 70 4.89506
r133 27 71 4.89506
r134 27 28 16.3169
r135 25 77 20.306
r136 24 25 20.3052
r137 21 70 8.70233
r138 21 24 20.3052
r139 19 20 20.3052
r140 19 76 20.3052
r141 15 70 8.70233
r142 15 20 20.306
r143 14 69 0.353334
r144 13 70 4.89506
r145 13 14 16.3169
r146 11 75 20.306
r147 10 11 20.3052
r148 7 69 6.97267
r149 7 10 20.3052
r150 5 6 20.3052
r151 5 74 20.3052
r152 1 69 6.97267
r153 1 6 20.306
.ends

.subckt PM_NOR2D2%OUT 1 5 6 11 12 17 18 23 24 31 33 34 35 36 37
r62 31 32 7.8574
r63 27 34 5.89305
r64 26 27 7.8574
r65 24 37 20.306
r66 23 24 20.3052
r67 20 32 10.4917
r68 20 23 20.3052
r69 18 36 20.306
r70 17 18 20.3052
r71 14 31 10.4917
r72 14 17 20.3052
r73 12 35 20.306
r74 11 12 20.3052
r75 8 27 10.4917
r76 8 11 20.3052
r77 6 33 20.306
r78 5 6 20.3052
r79 2 26 10.4917
r80 2 5 20.3052
r81 1 31 1.33576
r82 1 34 0.628592
.ends

.subckt PM_NOR2D2%VDD 1 6 11 14 19 22 27 30 35 39 44 47 52 55 60 63 68 79 80 81
+ 82 83 84 85 86
r113 67 68 20.3052
r114 67 86 20.3052
r115 63 78 1.43649
r116 63 68 20.306
r117 62 77 5.52744
r118 61 78 5.52744
r119 61 62 21.7558
r120 59 60 20.3052
r121 59 85 20.3052
r122 55 77 1.43649
r123 55 60 20.306
r124 54 76 5.52744
r125 53 77 5.52744
r126 53 54 21.7558
r127 51 52 20.3052
r128 51 84 20.3052
r129 47 76 1.43649
r130 47 52 20.306
r131 46 75 5.52744
r132 45 76 5.52744
r133 45 46 21.7558
r134 43 44 20.3052
r135 43 83 20.3052
r136 39 75 1.43649
r137 39 44 20.306
r138 37 74 5.52744
r139 36 75 5.52744
r140 34 35 20.3052
r141 34 82 20.3052
r142 30 74 1.43649
r143 30 35 20.306
r144 29 73 5.52744
r145 28 74 5.52744
r146 28 29 21.7558
r147 26 27 20.3052
r148 26 81 20.3052
r149 22 73 1.43649
r150 22 27 20.306
r151 21 72 5.52744
r152 20 73 5.52744
r153 20 21 21.7558
r154 18 19 20.3052
r155 18 80 20.3052
r156 14 72 1.43649
r157 14 19 20.306
r158 13 71 5.52744
r159 12 72 5.52744
r160 12 13 21.7558
r161 10 11 20.3052
r162 10 79 20.3052
r163 6 71 1.43649
r164 6 11 20.306
r165 1 36 30.2406
r166 1 37 21.9734
.ends

.subckt PM_NOR2D2%net12 1 6 10 11 15 20 24 25 29 34 38 39 43 48 52 53 57 62 66
+ 67 74 75 76 77 78 79 80 81 82 83
r99 67 83 20.306
r100 66 67 20.3052
r101 63 73 6.97267
r102 63 66 20.3052
r103 61 62 20.3052
r104 61 82 20.3052
r105 57 73 6.97267
r106 57 62 20.306
r107 56 72 4.89506
r108 55 73 0.353334
r109 55 56 16.3169
r110 53 81 20.306
r111 52 53 20.3052
r112 49 72 8.70233
r113 49 52 20.3052
r114 47 48 20.3052
r115 47 80 20.3052
r116 43 72 8.70233
r117 43 48 20.306
r118 42 71 4.89506
r119 41 72 4.89506
r120 41 42 16.3169
r121 39 79 20.306
r122 38 39 20.3052
r123 35 71 8.70233
r124 35 38 20.3052
r125 33 34 20.3052
r126 33 78 20.3052
r127 29 71 8.70233
r128 29 34 20.306
r129 28 70 4.89506
r130 27 71 4.89506
r131 27 28 16.3169
r132 25 77 20.306
r133 24 25 20.3052
r134 21 70 8.70233
r135 21 24 20.3052
r136 19 20 20.3052
r137 19 76 20.3052
r138 15 70 8.70233
r139 15 20 20.306
r140 14 69 0.353334
r141 13 70 4.89506
r142 13 14 16.3169
r143 11 75 20.306
r144 10 11 20.3052
r145 7 69 6.97267
r146 7 10 20.3052
r147 5 6 20.3052
r148 5 74 20.3052
r149 1 69 6.97267
r150 1 6 20.306
.ends

.subckt PM_NOR2D2%IN2 15 18 21 22 24 25 26 29 30 32 38 40 41 42 45 46 48 54 56
+ 57 58 61 62 64 70 72 74 77 78 80 82 83 84 86 89 90 92 93 94 97 98 100 106 108
+ 109 110 113 114 116 122 124 125 126 129 130 132 138 140 141 142 145 146 148
+ 199 200 201 202 203 204 205 206 207 208 209 210 211 212 213 214 215
r220 223 225 0.2952
r221 217 220 0.2952
r222 215 223 0.16974
r223 215 220 0.12546
r224 147 148 0.62445
r225 147 214 0.62445
r226 146 214 0.624484
r227 145 146 0.62445
r228 142 148 0.624484
r229 141 145 0.62445
r230 139 140 0.62445
r231 139 213 0.62445
r232 138 213 0.624484
r233 137 138 0.62445
r234 134 142 0.8856
r235 134 140 0.624484
r236 133 141 0.8856
r237 133 137 0.62445
r238 131 132 0.62445
r239 131 212 0.62445
r240 130 212 0.624484
r241 129 130 0.62445
r242 126 134 0.8856
r243 126 132 0.624484
r244 125 133 0.8856
r245 125 129 0.62445
r246 123 124 0.62445
r247 123 211 0.62445
r248 122 211 0.624484
r249 121 122 0.62445
r250 118 126 0.8856
r251 118 124 0.624484
r252 117 125 0.8856
r253 117 121 0.62445
r254 115 116 0.62445
r255 115 210 0.62445
r256 114 210 0.624484
r257 113 114 0.62445
r258 110 118 0.8856
r259 110 116 0.624484
r260 109 117 0.8856
r261 109 113 0.62445
r262 107 108 0.62445
r263 107 209 0.62445
r264 106 209 0.624484
r265 105 106 0.62445
r266 102 110 0.8856
r267 102 108 0.624484
r268 101 109 0.8856
r269 101 105 0.62445
r270 99 100 0.62445
r271 99 208 0.62445
r272 98 208 0.624484
r273 97 98 0.62445
r274 94 102 0.8856
r275 94 100 0.624484
r276 93 101 0.8856
r277 93 97 0.62445
r278 91 92 0.62445
r279 91 207 0.62445
r280 90 207 0.624484
r281 89 90 0.62445
r282 86 94 0.8856
r283 86 92 0.624484
r284 85 93 0.8856
r285 85 89 0.62445
r286 83 86 0.28782
r287 83 84 1.85976
r288 81 85 0.28782
r289 81 82 1.85976
r290 79 80 0.62445
r291 79 206 0.62445
r292 78 206 0.624484
r293 77 78 0.62445
r294 74 84 0.28782
r295 74 80 0.624484
r296 73 82 0.28782
r297 73 77 0.62445
r298 71 72 0.62445
r299 71 205 0.62445
r300 70 205 0.624484
r301 69 70 0.62445
r302 66 74 0.8856
r303 66 72 0.624484
r304 65 73 0.8856
r305 65 69 0.62445
r306 63 64 0.62445
r307 63 204 0.62445
r308 62 204 0.624484
r309 61 62 0.62445
r310 58 66 0.8856
r311 58 64 0.624484
r312 57 65 0.8856
r313 57 61 0.62445
r314 55 56 0.62445
r315 55 203 0.62445
r316 54 203 0.624484
r317 53 54 0.62445
r318 50 58 0.8856
r319 50 56 0.624484
r320 49 57 0.8856
r321 49 53 0.62445
r322 47 48 0.62445
r323 47 202 0.62445
r324 46 202 0.624484
r325 45 46 0.62445
r326 42 50 0.8856
r327 42 48 0.624484
r328 41 49 0.8856
r329 41 45 0.62445
r330 39 40 0.62445
r331 39 201 0.62445
r332 38 201 0.624484
r333 37 38 0.62445
r334 34 42 0.8856
r335 34 40 0.624484
r336 33 41 0.8856
r337 33 37 0.62445
r338 31 32 0.62445
r339 31 200 0.62445
r340 30 200 0.624484
r341 29 30 0.62445
r342 26 34 0.8856
r343 26 32 0.624484
r344 25 33 0.8856
r345 25 29 0.62445
r346 23 24 0.62445
r347 23 199 0.62445
r348 22 199 0.624484
r349 21 22 0.62445
r350 18 26 0.8856
r351 18 24 0.624484
r352 17 25 0.8856
r353 17 21 0.62445
r354 15 18 0.28782
r355 15 16 0.92988
r356 13 17 0.28782
r357 13 14 0.92988
r358 11 12 0.75276
r359 10 225 1
r360 10 11 0.75276
r361 8 223 1
r362 8 10 0.2952
r363 6 220 1
r364 6 8 0.2952
r365 4 217 1
r366 4 6 0.2952
r367 2 16 0.260498
r368 2 12 0.75276
r369 1 14 0.260498
r370 1 4 0.10332
.ends

.subckt PM_NOR2D2%IN1 13 18 21 22 24 25 26 29 30 32 38 40 42 45 46 48 54 56 58
+ 61 62 64 70 72 74 77 78 80 81 82 84 86 89 90 92 93 94 97 98 100 106 108 110
+ 113 114 116 122 124 126 129 130 132 138 140 141 142 145 146 148 199 200 201
+ 202 203 204 205 206 207 208 209 210 211 212 213 214 215
r214 223 225 0.2952
r215 217 220 0.2952
r216 215 223 0.17712
r217 215 220 0.11808
r218 147 148 0.62445
r219 147 214 0.62445
r220 146 214 0.624484
r221 145 146 0.62445
r222 142 148 0.624484
r223 141 145 0.62445
r224 139 140 0.62445
r225 139 213 0.62445
r226 138 213 0.624484
r227 137 138 0.62445
r228 134 142 0.8856
r229 134 140 0.624484
r230 133 141 0.8856
r231 133 137 0.62445
r232 131 132 0.62445
r233 131 212 0.62445
r234 130 212 0.624484
r235 129 130 0.62445
r236 126 134 0.8856
r237 126 132 0.624484
r238 125 133 0.8856
r239 125 129 0.62445
r240 123 124 0.62445
r241 123 211 0.62445
r242 122 211 0.624484
r243 121 122 0.62445
r244 118 126 0.8856
r245 118 124 0.624484
r246 117 125 0.8856
r247 117 121 0.62445
r248 115 116 0.62445
r249 115 210 0.62445
r250 114 210 0.624484
r251 113 114 0.62445
r252 110 118 0.8856
r253 110 116 0.624484
r254 109 117 0.8856
r255 109 113 0.62445
r256 107 108 0.62445
r257 107 209 0.62445
r258 106 209 0.624484
r259 105 106 0.62445
r260 102 110 0.8856
r261 102 108 0.624484
r262 101 109 0.8856
r263 101 105 0.62445
r264 99 100 0.62445
r265 99 208 0.62445
r266 98 208 0.624484
r267 97 98 0.62445
r268 94 102 0.8856
r269 94 100 0.624484
r270 93 101 0.8856
r271 93 97 0.62445
r272 91 92 0.62445
r273 91 207 0.62445
r274 90 207 0.624484
r275 89 90 0.62445
r276 86 94 0.8856
r277 86 92 0.624484
r278 85 93 0.8856
r279 85 89 0.62445
r280 83 86 0.28782
r281 83 84 1.85976
r282 81 85 0.28782
r283 81 82 1.85976
r284 79 80 0.62445
r285 79 206 0.62445
r286 78 206 0.624484
r287 77 78 0.62445
r288 74 84 0.28782
r289 74 80 0.624484
r290 73 82 0.28782
r291 73 77 0.62445
r292 71 72 0.62445
r293 71 205 0.62445
r294 70 205 0.624484
r295 69 70 0.62445
r296 66 74 0.8856
r297 66 72 0.624484
r298 65 73 0.8856
r299 65 69 0.62445
r300 63 64 0.62445
r301 63 204 0.62445
r302 62 204 0.624484
r303 61 62 0.62445
r304 58 66 0.8856
r305 58 64 0.624484
r306 57 65 0.8856
r307 57 61 0.62445
r308 55 56 0.62445
r309 55 203 0.62445
r310 54 203 0.624484
r311 53 54 0.62445
r312 50 58 0.8856
r313 50 56 0.624484
r314 49 57 0.8856
r315 49 53 0.62445
r316 47 48 0.62445
r317 47 202 0.62445
r318 46 202 0.624484
r319 45 46 0.62445
r320 42 50 0.8856
r321 42 48 0.624484
r322 41 49 0.8856
r323 41 45 0.62445
r324 39 40 0.62445
r325 39 201 0.62445
r326 38 201 0.624484
r327 37 38 0.62445
r328 34 42 0.8856
r329 34 40 0.624484
r330 33 41 0.8856
r331 33 37 0.62445
r332 31 32 0.62445
r333 31 200 0.62445
r334 30 200 0.624484
r335 29 30 0.62445
r336 26 34 0.8856
r337 26 32 0.624484
r338 25 33 0.8856
r339 25 29 0.62445
r340 23 24 0.62445
r341 23 199 0.62445
r342 22 199 0.624484
r343 21 22 0.62445
r344 18 26 0.8856
r345 18 24 0.624484
r346 17 25 0.8856
r347 17 21 0.62445
r348 15 18 0.28782
r349 15 16 0.91881
r350 13 17 0.28782
r351 13 14 0.91881
r352 11 12 0.75276
r353 10 225 1
r354 10 11 0.75276
r355 8 223 1
r356 8 10 0.2952
r357 6 220 1
r358 6 8 0.2952
r359 4 217 1
r360 4 6 0.2952
r361 2 16 0.260498
r362 2 12 0.75276
r363 1 14 0.260498
r364 1 4 0.10332
.ends

